** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/clk_gen_bhv/clk_gen_test.sch
**.subckt clk_gen_test
x1 sp4 rn clk sp1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffsnq_1
x2 sp1 rn clk sp2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
x3 sp2 rn clk sp3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
x4 sp3 rn clk sp4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
V1 clk vss PULSE(0 1.8 0 1n 1n {clkper/2} {clkper})
V3 vdd vss 3.3
V4 vss 0 0
V2 rn vss PULSE(0 1.8 10n 1n 1n 1 2)
x5 net21 sp1 net1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x6 phi1 net5 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x7 net5 sp2 net6 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x8 phi2 net10 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x9 net10 sp3 net11 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x10 phi3 net15 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__inv_2
x11 net15 sp4 net16 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__and2_2
x12 phi4 net21 vdd vdd vss net20 gf180mcu_fd_sc_mcu7t5v0__inv_2
x13 net1 net2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x14 net2 o1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x15 o1 net3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x16 net3 net4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x17 net6 net7 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x18 net7 o2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x19 o2 net8 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x20 net8 net9 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x21 net11 net12 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x22 net12 o3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x23 o3 net13 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x24 net13 net14 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x25 net16 net17 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x26 net17 o4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x27 o4 net18 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x28 net18 net19 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__buf_2
x29 net16 net19 phi4 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x30 net11 net14 phi3 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x31 net6 net9 phi2 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
x32 net1 net4 phi1 vdd vdd vss vss gf180mcu_fd_sc_mcu7t5v0__or2_2
**** begin user architecture code

.param clkper=2u
.tran 1n 100u uic


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical
.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu7t5v0/spice/gf180mcu_fd_sc_mcu7t5v0.spice

**** end user architecture code
**.ends
.end
